US06509329B1
Synthesis of N,N′-bis[3-(3,4,5-Trimethoxyphenyl)benzyl]-homopiperazine
3-(3,4,5-Trimethoxyphenyl)benzyl chloride (184 mg) and homopiperazine (52 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 3-(3,4,5-Trimethoxyphenyl)benzyl chloride | 184 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
reactant | homopiperazine | 52 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[3-(3,4,5-Trimethoxyphenyl)benzyl]-homopiperazine | COC=1C=C(C=C(C1OC)OC)C=1C=C(CN2CCN(CCC2)CC2=CC(=CC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C37H44N2O6
